US05246948
Synthesis of 2-[3-(thenoylamino)propylthio]pyridine
To a solution of 1.50 g (6.22 mmol) of 2-(3-aminopropylthio)pyridine dihydrochloride and 3.19 ml (22.9 mmol) of triethylamine in 60 ml of methylene chloride, 1.09 ml (7.46 mmol) of.2-thenoyl-chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain powder. The powder was washed with ether and dried to obtain 1.48 g of the desired compound (yield: 85.5%, colorless powder).

reactant | 2-(3-aminopropylthio)pyridine dihydrochloride | 6.22 mmol, 1.50 g | Cl.Cl.NCCCSC1=NC=CC=C1
reactant | triethylamine | 22.9 mmol, 3.19 ml | C(C)N(CC)CC | C6H15N
reactant | 2-thenoyl-chloride | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(thenoylamino)propylthio]pyridine | 1.48 g, yield: 85.5% | C1(=CC=CS1)C(=O)NCCCSC1=NC=CC=C1 | C13H14N2OS2
